US07989438B2
Step 5: methyl 1-allyl-3-cyclohexyl-2-(4-methoxy-2-{[(triisopropylsilyl)oxy]methyl}phenyl)-1H-indole-6-carboxylate
Methyl 3-cyclohexyl-2-(4-methoxy-2-{[(triisopropylsilyl)oxy]methyl}phenyl)-1H-indole-6-carboxylate (1 eq) was dissolved in DMF (0.34M solution) and the solution was degassed. NaH (60% dispersion in mineral oil; 1.1 eq) was added and the mixture was stirred for 5 min. Allyl bromide (1.2 eq) was added and stirring was continued for 5 h. All volatiles were evaporated in vacuo and the residual material was dissolved in Et2O. The solution was washed with 0.5N HCl, saturated aq. NaHCO3 solution and with brine. After drying the organic phase over Na2SO4 all volatiles were evaporated in vacuo and the residual material was purified by FC (PE:EtOAc, 10:1). After evaporation of the solvents the product was obtained as a colourless sticky solid (84%). The material was used without further characterization in the next reaction.

reactant | Methyl 3-cyclohexyl-2-(4-methoxy-2-{[(triisopropylsilyl)oxy]methyl}phenyl)-1H-indole-6-carboxylate | 1 eq | C1(CCCCC1)C1=C(NC2=CC(=CC=C12)C(=O)OC)C1=C(C=C(C=C1)OC)CO[Si](C(C)C)(C(C)C)C(C)C | C33H47NO4Si
reactant | NaH | 1.1 eq | [H-].[Na+]
reactant | Allyl bromide | 1.2 eq | C(C=C)Br | C3H5Br
solvent | DMF | 0.34M | CN(C)C=O | C3H7NO
product | methyl 1-allyl-3-cyclohexyl-2-(4-methoxy-2-{[(triisopropylsilyl)oxy]methyl}phenyl)-1H-indole-6-carboxylate | 84% | C(C=C)N1C(=C(C2=CC=C(C=C12)C(=O)OC)C1CCCCC1)C1=C(C=C(C=C1)OC)CO[Si](C(C)C)(C(C)C)C(C)C | C36H51NO4Si
